US06133456
3'-(tert-Butoxycarbonylmethoxy)acetophenone (16)
To a suspension of NaH (60% dispersion in mineral oil, 1.47 g, 36.7 mmol) in anhydrous DMF (50 mL) at 0° C. was added solid 3'-hydroxyacetophenone (5.0 g, 36.7 mmol). The mixture was stirred under N2 for 10 min and a clear yellow solution was formed. Then, tert-butylbromoacetate (6.23 mL, 38.5 mmol) was added and the mixture stirred at 0° C. for 5 min and then at room temperature for 20 min. TLC showed no starting material remaining. The mixture was partitioned between EtOAc (250 mL) and water (100 mL). The organic layer was separated, washed with saturated brine, dried (MgSO4) and concentrated in vacuo. Chromatography on silica (20% EtOAc/hexanes) gave 7.6 g (83%) of a white crystal. 1H NMR (CDCl3, 300 MHz) 7.60-7.14 (m, 4 H), 4.59 (s, 2 H), 2.60 (s, 3 H), 1.51 (s, 9 H); 13C NMR (CDCl3, 75 MHz) 198.0, 168.0, 158.6, 138.9, 130.1, 122.3, 120.6, 113.5, 83.0, 66.1, 28.4, 27.0.

reactant | NaH | 36.7 mmol, 1.47 g | [H-].[Na+]
reactant | 3'-hydroxyacetophenone | 36.7 mmol, 5.0 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | tert-butylbromoacetate | 38.5 mmol, 6.23 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3'-(tert-Butoxycarbonylmethoxy)acetophenone | 7.6 g, 83% | C(C)(C)(C)OC(=O)COC=1C=C(C=CC1)C(C)=O | C14H18O4
